US08633212B2
Step 5. tert-butyl 6′-bromo-1′-(2-(trimethylsilyl)ethylsulfonamido)-1′-vinyl-1′,3′-dihydrospiro[azetidine-3,2′-indene]-1-carboxylate
To a solution of tert-butyl 6′-bromo-1′-(((2-(trimethylsilyl)ethyl)sulfonyl)imino)-1′,3′-dihydrospiro[azetidine-3,2′-indene]-1-carboxylate (0.4031 g, 0.78 mmol) in THF (3 mL) was added vinylmagnesium bromide (1.0 M in THF, 3 mL, 3.0 mmol) at 0° C. under nitrogen. The mixture was allowed to slowly warm to room temperature over 18 h. The reaction mixture was then quenched with saturated NH4Cl, extracted with EtOAc, and dried over Na2SO4. After the solvent was evaporated under reduced pressure, the crude product was directly used in the next step without further purification. LC-MS tR=2.31 min in 3 min chromatography, m/z 543, 545 (MH+), 487, 489 (MH+-56).

reactant | tert-butyl 6′-bromo-1′-(((2-(trimethylsilyl)ethyl)sulfonyl)imino)-1′,3′-dihydrospiro[azetidine-3,2′-indene]-1-carboxylate | 0.78 mmol, 0.4031 g | BrC1=CC=C2CC3(C(C2=C1)=NS(=O)(=O)CC[Si](C)(C)C)CN(C3)C(=O)OC(C)(C)C | C21H31BrN2O4SSi
reactant | vinylmagnesium bromide | 3.0 mmol, 1.0 M, 3 mL | C(=C)[Mg]Br
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | tert-butyl 6′-bromo-1′-(2-(trimethylsilyl)ethylsulfonamido)-1′-vinyl-1′,3′-dihydrospiro[azetidine-3,2′-indene]-1-carboxylate | BrC1=CC=C2CC3(C(C2=C1)(C=C)NS(=O)(=O)CC[Si](C)(C)C)CN(C3)C(=O)OC(C)(C)C | C23H35BrN2O4SSi
